US05254560
5.1. 1,1-Dimethylethyl [[1-[4-(aminocarbonyl)pyrimidin-2-yl]piperidin-3-yl]methyl]carbamate
10 g (0.0467 mol) of 1,1-dimethylethyl [(piperidin-3-yl)methyl]carbamate, 7.5 g (0.0476 mol) of 2-chloropyrimidine-4-carboxamide, 9.7 g (0.07 mol) of potassium carbonate, 0.3 g of sodium iodide and 230 ml of N,N-dimethylformamide are introduced into a 1 liter, three-necked round bottom flask. The mixture is stirred for 24 hours at room temperature, under argon atmosphere, and is then poured into 500 ml of water. The mixture is extracted with dichloromethane, the organic phase is washed with water, dried over magnesium sulphate, filtered and the solvent evaporated under reduced pressure. The crude crystalline product is taken up with petroleum ether and 15 g of white solid are obtained.

reactant | 1,1-dimethylethyl [(piperidin-3-yl)methyl]carbamate | 0.0467 mol, 10 g | N1CC(CCC1)CNC(OC(C)(C)C)=O | C11H22N2O2
reactant | 2-chloropyrimidine-4-carboxamide | 0.0476 mol, 7.5 g | ClC1=NC=CC(=N1)C(=O)N | C5H4ClN3O
reactant | potassium carbonate | 0.07 mol, 9.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.3 g | [I-].[Na+]
solvent | water | 500 ml | O | H2O
solvent | N,N-dimethylformamide | 230 ml | CN(C=O)C | C3H7NO
product | 1,1-Dimethylethyl [[1-[4-(aminocarbonyl)pyrimidin-2-yl]piperidin-3-yl]methyl]carbamate | NC(=O)C1=NC(=NC=C1)N1CC(CCC1)CNC(OC(C)(C)C)=O | C16H25N5O3
